US05401434
Into a flask, were placed triphenylphosphine (2.3 g, 8.8 mmol) and 4-propylphenethylbromide (2.0 g, 8.8 mmol) prepared from 4-propylphenethyl alcohol, followed by adding and dissolving xylene (10 ml), heating under reflux for 10 hours, filtering off white crystals of 4-propylphenethyltriphenylphosphoniumbromide deposited after the completion of reaction, drying the obtained white crystals (4.3 g, 8.8 mmol), dissolving the white crystals in THF (10 ml), stirring under ice cooling, adding potassium-t-butoxide (984 mg, 8.8 mmol) to the reaction solution slowly, stirring the solution at room temperature for 2 hours after the completion of dropping, adding a THF solution of 4-(4-pentylcyclohexyl)cyclohexylacetoaldehyde (2.45 g, 8.8 mmol), further stirring for 5 hours, adding ether after completion of reaction, filtering off white solid deposited, concentrating the filtrate under reduced pressure, and purifying the obtained brown oil by means of silica gel column chromatography, to obtain a mixture (1.8 g, 4.4 mmol) of 1-(4-propylphenyl)-4-(4-(4-pentylcyclohexyl)cyclohexyl)-2Z-butene and its E-isomer.

reactant | triphenylphosphine | 8.8 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-propylphenethylbromide | 8.8 mmol, 2.0 g | C(CC)C1=CC=C(CCBr)C=C1 | C11H15Br
reactant | 4-propylphenethyl alcohol | C(CC)C1=CC=C(CCO)C=C1 | C11H16O
reactant | potassium-t-butoxide | 8.8 mmol, 984 mg | CC(C)([O-])C.[K+]
reactant | 4-(4-pentylcyclohexyl)cyclohexylacetoaldehyde | 8.8 mmol, 2.45 g | C(CCCC)C1CCC(CC1)C1CCC(CC1)CC=O | C19H34O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | xylene | 10 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-(4-propylphenyl)-4-(4-(4-pentylcyclohexyl)cyclohexyl)-2Z-butene | 4.4 mmol, 1.8 g | C(CC)C1=CC=C(C=C1)\C=C/CCC1CCC(CC1)C1CCC(CC1)CCCCC | C30H48
